US06008243
As described in Example 1(f) for the preparation of N-(1(S)-benzyl-2-methoxyethyl)-3(R)-(t-butoxycarbonylamino)succinamic acid benzyl ester, N-t-butoxycarbonyl-D-aspartic acid β-benzyl ester (1.00 g, 3.10 mmol) and L-t-leucinol (400 mg, 3.40 mmol) were coupled with BOP to afford 1.20 g (90%) of 3(R)-(t-butoxycarbonylamino)-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester as a white powder, mp 186-7° C. 1H NMR (CDCl3): δ 7.22 (s, 5H), 6.52 (d, 1H, J=9.3 Hz), 5.62-5.52 (m, 1H), 5.25 (dd, 2H, J=12.1, 18.7 Hz), 4.58-4.48 (m, 1H), 3.90-3.78 (m, 2H), 3.58-3.50 (m, 1H), 3.22-3.10 (m, 1H), 2.78 (dd, 1H, J=5.9, 17.7 Hz), 2.52-2.45 (m, 1H), 1.22 (s, 9H), 0.98 (s, 9H). IR: 3322, 2960 1730, 1664 1528, 1367, 1249, 1165, 1050 cm-1. Anal. Calculated for C22H34N2O6 : C, 62.52; H, 8.12; N, 6.63. Found: C, 62.20; H, 8.13; N, 6.62.

reactant | N-(1(S)-benzyl-2-methoxyethyl)-3(R)-(t-butoxycarbonylamino)succinamic acid benzyl ester | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@H](COC)CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C26H34N2O6
reactant | L-t-leucinol | 3.40 mmol, 400 mg | N[C@@H](C(C)(C)C)CO | C6H15NO
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
product | 3(R)-(t-butoxycarbonylamino)-N-(1(S)-hydroxymethyl-2,2-dimethyl-propyl)succinamic acid benzyl ester | 1.20 g, 90% | C(C1=CC=CC=C1)OC(C[C@H](C(=O)N[C@@H](C(C)(C)C)CO)NC(=O)OC(C)(C)C)=O | C22H34N2O6
